US07569600B2
To a solution of 1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecan-11-one (3.95 g, 18.7 mmol) in 160 mL of acetone was added 16 mL of water and pyridinium p-toluenesulfonate (1.41 g, 5.61 mmol). The resulting mixture was stirred at reflux for 20 h. Then, it was cooled and concentrated. The crude was purified by silica gel column chromatography using a 5% MeOH:EtOAc mixture as eluent to afford 2-aza-spiro[4.5]decane-3,8-dione (1.80 g, 58%) as a white solid.

reactant | 1,4-dioxa-10-aza-dispiro[4.2.4.2]tetradecan-11-one | 18.7 mmol, 3.95 g | O1CCOC12CCC1(CNC(C1)=O)CC2 | C11H17NO3
reactant | water | 16 mL | O | H2O
reactant | pyridinium p-toluenesulfonate | 5.61 mmol, 1.41 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | acetone | 160 mL | CC(=O)C | C3H6O
product | 2-aza-spiro[4.5]decane-3,8-dione | 1.80 g, 58% | C1NC(CC12CCC(CC2)=O)=O | C9H13NO2
